US05281571
At 25° C., 6.83 g (0.02 mole) 4-chloro-3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole, 4.1 g (0.03 mole) K2CO3, 3.1 mL (0.03 mole) N-methyl-N-propylamine and a catalytic amount of CuF2 were slurried in 50 mL 1-methyl-2-pyrrolidinone. The reaction mixture was stirred at 35° C. for 2 hours. The mixture was cooled, diluted with 100 mL cold water, and extracted four times with ethyl acetate. The ethyl acetate extracts were washed with brine, dried over anhydrous MgSO4, and stripped in vacuo. The residue was purified chromatographically using 15% ethyl acetate in hexane as the eluent to give 6.8 g (86%) of 5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-N-methyl-2-nitro-N-propylbenzeneamine as an orange oil, nD25 1.5534.

reactant | 4-chloro-3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 0.02 mole, 6.83 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C11H5ClF5N3O2
reactant | K2CO3 | 0.03 mole, 4.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methyl-N-propylamine | 0.03 mole, 3.1 mL | CNCCC | C4H11N
solvent | 1-methyl-2-pyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | 5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-N-methyl-2-nitro-N-propylbenzeneamine | 6.8 g, 86% | ClC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC(=C(C1)N(CCC)C)[N+](=O)[O-])F | C15H15ClF4N4O2
